US08053447B2
To a stirred solution of 3-hydroxy-pyrrolidine-1-carboxylic acid t-butyl ester (3 g, 16.02 mmol) in dry THF (75 mL) was added triphenyl phosphine (4.62 g, 17.62 mmol) and 4-hydroxy-benzoic acid benzyl ester (4.02 g, 17.62 mmol). The reaction mixture was cooled to 0° C. and DEAD (2.78 mL, 17.62 mmol) was added dropwise over a period of 30 min. The reaction was gradually brought to room temperature and stirring continued for 16 hrs. The solvent was removed under vacuum and the residue purified by column chromatography (Flash 40) using a gradient of starting from EtOAc-heptane 1:20 to 1:5. Desired fractions were collected and the solvent evaporated in vacuo. The residue was dissolved in EtOH (80 mL) and 10% Pd/C (0.5 g) was added and the mixture was hydrogenated for 16 hrs. The mixture was filtered and the volatiles were evaporated in vacuo affording 3.4 g (69%) of 3-(4-carboxy-phenoxy)-pyrrolidine-1-carboxylic acid t-butyl ester as a solid.

reactant | 3-hydroxy-pyrrolidine-1-carboxylic acid t-butyl ester | 16.02 mmol, 3 g | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | triphenyl phosphine | 17.62 mmol, 4.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-benzoic acid benzyl ester | 17.62 mmol, 4.02 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C14H12O3
reactant | DEAD | 17.62 mmol, 2.78 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 3-(4-carboxy-phenoxy)-pyrrolidine-1-carboxylic acid t-butyl ester | 3.4 g, 69% | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)C(=O)O | C16H21NO5
